US04254036
Diethyl α-Phenylthiosuberate
To a stirred, ice-cold solution of sodium ethoxide in ethanol (prepared from 5.98 g of sodium spheres and 175 ml of ethanol) is added a solution of 29.8 g of thiophenol in 30 ml of ethanol during 15 min. After 10 min. this solution is treated at 0°-15° with a solution of 79.5 g of diethyl α-bromosuberate in 70 ml of ethanol during 15 min. The stirred mixture is warmed to room temperature during 60 min. and finally is heated at reflux for 60 min. The cooled solution is treated with 3 ml of gl acetic acid and concentrated. The residue is partitioned between ether and water. The ether layer is washed with water and brine, dried over MgSO4, and concentrated. The residue is subjected to fractional distillation to provide a light amber liquid, bp. 165°-180° (0.15 mm).

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | thiophenol | 29.8 g | C1(=CC=CC=C1)S | C6H6S
reactant | diethyl α-bromosuberate | 79.5 g | BrC(C(=O)OCC)CCCCCC(=O)OCC | C12H21BrO4
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
reactant | ethanol | 175 ml, 5.98 g | C(C)O | C2H6O
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | ethanol | 70 ml | C(C)O | C2H6O
product | Diethyl α-Phenylthiosuberate | C1(=CC=CC=C1)C(C(=S)OCC)CCCCCC(=O)OCC | C18H26O3S
